Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
morphine
 
Attending: ___
 
___ Complaint:
Hospitalist Admit Note  
Patient ___ ___  
DOB: ___  
PCP: ___  
Transferring Facility: ___
Transferring Physician:Dr. ___ Number: ___  
Transferring Floor: N___ Contact ___  
.  
CC: obstructive jaundice 

 
Major Surgical or Invasive Procedure:
ERCP

 
History of Present Illness:
___ yo F with HTN, skin melanoma in ___ and skin squamous cell 
cancer in ___ who developed new onset jaundice and nausea. At 
OSH, T bili 16 and direct bili 13. AST/ALT: 124/103; AP 303. INR 
5.4. CT showed a 7x6x5 cm cystic lesion with calcification at 
the head of pancreas. CBD and PD were dilated. She had mild 
respiratory distress and CXR showed LLL infiltrate for which she 
was started on ampicillin. She was given vitK and 4 unit of FFP 
due to coagulopathy, INR improved to 1.3. She underwent ERCP 
with Dr. ___ under general anesthesia. Cannulation 
of CBD was not successful. Only PD was cannulated. Patient with 
increasing bili today, needing transfer for repeat ERCP. Per 
report, vitals prior to transfer. Tx 101. Tc:99.8 BP:140-170/70 
___ RR: 15 O2 Sat: ___ 4L/min O2-per transferring 
physician patient with no respiratory symptoms after ERCP 
despite O2 requirement.
.
Pt reports that that she developed 1 week of nausea, vomiting, 
fever up to 102.7, abdominal distention and 1 day of dark urine 
prior to admission to OSH. Reports that symptoms were 
intermittent, but worsened on sat prior to admit. Pt reports she 
was diagnosed with a UTI on fri and started on cipro.  She 
reports intermittent chills, weight loss of ___ over ___ 
months. In addition, pt reports intermittent diarrhea-non 
bloody- over last few months. Pt denies new foods, travel, sick 
contacts, abdominal pain, constipation, melena, brbpr, cp, sob, 
palpitations, URI/cough, rash, paresthesias, weakness, dysuria, 
headache, but does report chronic intermittent dizziness. ___ 
reports decreased appetite and pO intake x1 week.
 
Past Medical History:
appendectomy, hysterectomy, tonsillectomy, removal of skin 
cancer and melanoma 
-formerly had HTN
-formerly HL
-hypothyroidism
 
Social History:
___
Family History:
mother died at ___-arthritis, "cancer"
dad-alcoholic
 
Physical ___:
GEN: lying in bed, jaundiced, NAD
vitals: T 97.2, BP 152/68, HR 75, RR 24, sat 93% on 4L
HEENT: nc/at, EOMI, +icterus, dry MM
neck: supple, +thyromegaly, +JVD to earlobe
chest: +b/l crackles
heart: rrr, m/r/g
abd: +bs, soft, mildly tender, softly distended, no guarding or 
rebound,
back: non-tender, no CVA tenderness
ext: no c/c/e 2+pulses
skin: multiple areas of scaring, hypo and hyperpigementation. 
L.shin with sutures from recent resection-c/d/i
neuro: AAOx3, CN2-12 intact, motor ___ x4, sensation intact to 
LT, no tremor
psych: calm, cooperative
 
Pertinent Results:
Labs:  
T bili 16 and direct bili 13. AST/ALT: 124/103; AP 303. INR 5.4. 
 
.  
Imaging:  
CT showed a 7x6x5 cm cystic lesion with calcification at the 
head of pancreas.  
ERCP-CBD and PD were dilated.  
CXR-LLL infiltrate 
.
ERCP ___ neoplasia of pancreas. Unable to access bile 
duct.
.
EKG NSR Q III, TWI III, AVF
.
CT ___ ventilation of the intereim bilary 
ducts as well as the main pancreatitic duct. multiloculated 
cystic lesion in the head of the pancreas associated with small 
punctate calcifications that can be related to a pancreatic 
neoplasia like serous cystadenoma of the pancreas. Suboptimal 
evaluation due to the lack of IV contrast. ERCP or MRCP is 
recommended for further eval. MIld free fluid in pelvis. 
Diverticulosis without diverticulitis. b/l cortical renal cysts.
.
RUQ u/s ___ intrahepatic and extrahepatic biliary ductal 
dilatation of ? etiology. 
.
CXR ___ LLL infiltrate otherwise no significant acute 
finding.
.
WBC 13, HCT 29, plt 167. INR 1.3, ap 343, tbili 23.3, direct 
13.1, bun 26, ca 9 creat 0.81, gluc 95, lip 33, ast 166, alt 
110, TSH 0.___ yo F with HTN, skin melanoma in ___ and skin squamous cell 
cancer in ___ who developed new onset jaundice, nausea with 
vomiting and was found to have a cystic pancreatic mass at OSH.
.
# CMO: Patient was made comfort measure after discussion with 
family. Palliative care saw patient and it was decided that she 
would go home with hospice care. She was comfortable at the time 
of discharge. She was sent home on oxycodone, zofran, 
promethazine, compazine, & ativan for symptom management. 
Patient medications were reviewed and non-palliative medications 
were removed from regimen. We called the PCP ___ couple of times 
during this stay and were only able to reach his answering 
machine. We left messages with the new changes in care goals and 
with numbers for him to contact us. Family (very involved) has 
also said that they will be in touch with her PCP as well. She 
will continue to have her foley and oxygen with N as needed at 
home, which hospice can provide.
.
#bile duct obstruction with obstructive jaundice/cystic 
pancreatic head lesion-Etiology of patients symptoms, abdominal 
distention, nausea, jaundice is likely related to obstruction 
from pancreatic head mass. DDX includes malignancy vs. cyst. Pt 
does have h.o skin cancer, but unlikely to metastasize to 
pancreas. Pt may also have stricture or stones. She had an ERCP 
with 8cm by 10mm Wallflex fully covered biliary stent which was 
successfully placed with large amounts of mucin which drained. 
Patient presented with nausea and continued to have nausea 
intermittently throughout stay. Have increased regimen as above 
to control nausea, able to tolerate PO meds, gingerale, and some 
soft foods.
.
#Hypoxia-?LLL infiltrate--Pt thought to have PNA at OSH. CXR 
found streaky LLL infiltrate. Pt does have a leukocytosis, but 
denies cough. On exam, pt with elevated JVP/crackles more c/w 
volume overload. Pt does have suspicion of malignancy, and will 
consider if continued hypoxia. Will continue to cover for 
suspected pna including atypicals with levofloxacin to end on 
___. Able to tolerate PO so will go home with PO regimen.
.
#Transient bacteremia s/p ERCP: will treat with flagyl in 
addition to levoflox as above for total of 2 wk course, to end 
on ___. have been tolerating PO as well. 
.
#h.o skin cancer/squamous ___ f/u outpt 
if necessary but CMO at this point
.
#Afib: patient found to have atrial fibrillation ___ to 
procedure, which has resolved and has not recurred. No need for 
any anticoagulation especially given goals of care.
.
#Hypothyroidism: will continue home levothyroxine as it might 
help patient feel better, more energetic.
.
#code-DNR/DNI, CMO, d/w patient in presence of HCP. 
 
Medications on Admission:
levothyroxine 75mcg daily, HCTZ-not on prior to admit, MVI, 
prochlorperazine Cipro 250mg BID  
Inpatient:  
She is on Ampicillin 1.5gm Q6hours and prn albuterol.  
Allergy: morphine  

 
Discharge Medications:
1. levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Ativan 1 mg Tablet Sig: One (1) Tablet PO every ___ hours as 
needed for nausea.
Disp:*180 Tablet(s)* Refills:*2*
3. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q4H (every 4 hours) as 
needed for sob/wheezing.  
4. metronidazole 500 mg Tablet Sig: One (1) Tablet PO Q8H (every 
8 hours) for 11 days: End Date ___.
Disp:*32 Tablet(s)* Refills:*0*
5. levofloxacin 250 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours) for 11 days: last day = ___.
Disp:*11 Tablet(s)* Refills:*0*
6. prochlorperazine 25 mg Suppository Sig: One (1) Suppository 
Rectal Q12H (every 12 hours) as needed for nausea.
Disp:*60 Suppository(s)* Refills:*2*
7. promethazine 25 mg Tablet Sig: Two (2) Tablet PO Q6H (every 6 
hours) as needed for nausea.
Disp:*240 Tablet(s)* Refills:*0*
8. ondansetron 8 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO Q 8H (Every 8 Hours) as needed for nausea.
Disp:*90 Tablet, Rapid Dissolve(s)* Refills:*0*
9. oxycodone 20 mg/mL Concentrate Sig: ___ mg PO q2h:PRN as 
needed for pain and shortness of breath.
Disp:*100 ml* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
pancreatic head mass
bile duct obstruction/hyperbilirubinemia
hypoxia
pneumonia
.
HTN, benign

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted for further work up of a blockage noted in 
your bile ducts and a mass that was seen in your pancreas. You 
underwent a procedure called an ERCP that showed significant 
blockage of your biliary system. There was a stent placed which 
relieved the blockage. You were also continued on antibiotics 
for a pneumonia and prophylaxis after ERCP which you will 
continue until ___.
.
You had significant nausea during your hospitalization. You will 
be sent on on many different medications for your nausea.
.
Medication changes:
Start Oxycodone liquid 20mg/ml ___ PO q4-6h for pain and 
shortness of breath SL
Start Ativan 1mg q4-6h as needed for anxiety and shortness of 
breath
Continue Flagyl q8h until ___
Continue Levofloxacin 250mg every day until ___
Continue Prochlorperazine 25mg twice a day as needed for nausea
Continue Promethazine 50mg Tablet every 6 hours as needed for 
nausea 
Continue Zofran 8mg every day as needed for nausea
.
Please take all of your medications as prescribed and follow up 
with the appointments below.
 
Followup Instructions:
___